US08937091B2
1-methyl-6-methacryloylnaphthalene 8212
1-methylnaphthalene (142 mg), methacryloyl chloride (110 mg), and aluminium chloride (160 mg) were reacted in dichloromethane (1.5 mL) at from −30° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (122 mg).

reactant | 1-methylnaphthalene | 142 mg | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | methacryloyl chloride | 110 mg | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | aluminium chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-methyl-6-methacryloylnaphthalene | 122 mg | CC1=CC=CC2=CC(=CC=C12)C(C(=C)C)=O | C15H14O
